US08486979B2
3-Cyano-N′-hydroxybenzimidamide
Hydroxylamine (Aldrich, 7.65 g, 100 mmol) in ethanol (100 mL) was treated with 10 N sodium hydroxide (10 mL, 100 mmol). To this solution, isophthalonitrile (Aldrich, 12.8 g, 100 mmol) in 100 mL ethanol was added. The reaction mixture was heated to reflux for 3 hours and then cooled to room temperature. The solvent was removed under vacuum and the residue was purified with flash column chromatography (5% methanol/dichloromethane) to provide the titled compound. 1H NMR (300 MHz, DMSO-d6) δ 5.98 (bs, 2 H), 7.59 (t, J=7.4 Hz, 1 H), 8.06-8.0 (m, 2 H), 9.89 (s, 1 H) ppm; MS (DCI/NH3) m/z 162 (M+H)+.

reactant | Hydroxylamine | 100 mmol, 7.65 g | NO | H3NO
reactant | sodium hydroxide | 100 mmol, 10 N, 10 mL | [OH-].[Na+]
reactant | isophthalonitrile | 100 mmol, 12.8 g | C(C1=CC(C#N)=CC=C1)#N | C8H4N2
solvent | ethanol | 100 mL | C(C)O | C2H6O
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 3-Cyano-N′-hydroxybenzimidamide | C(#N)C=1C=C(C(N)=NO)C=CC1 | C8H7N3O
